US09340547B2
a) (S)-tert-Butyl 1-(2-(1-(4-methoxybenzyl)-1H-pyrazol-4-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
This compound was prepared starting from (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate (900 mg, 2.89 mmol) and 1-(4-methoxybenzyl)-1H-pyrazol-4-amine (1.24 g, 6.10 mmol) following the experimental procedure described in Preparation 27a to afford 1.02 g (100% purity, 73% yield) of the title compound after purification by flash chromatography (0% to 100% AcOEt/hexanes).

reactant | (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 2.89 mmol, 900 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)NN1C(=CC=C1)C(=O)OC)C | C14H21N3O5
reactant | 1-(4-methoxybenzyl)-1H-pyrazol-4-amine | 6.10 mmol, 1.24 g | COC1=CC=C(CN2N=CC(=C2)N)C=C1 | C11H13N3O
product | (S)-tert-Butyl 1-(2-(1-(4-methoxybenzyl)-1H-pyrazol-4-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 73% yield | COC1=CC=C(CN2N=CC(=C2)NC(=O)C=2N(C=CC2)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C=C1 | C24H30N6O5
